US08293909B2
Ethyl 5-(benzyloxy)-2-(4-fluorophenyl)-6-(methylsulfonamido)pyrazolo[1,5-a]pyridine-3-carboxylate.
Ethyl 5-(benzyloxy)-6-(N-(tert-butoxycarbonyl)methylsulfonamido)-2-(4-fluorophenyl)pyrazolo[1,5-a]pyridine-3-carboxylate (0.32 g, 0.54 mmol, 1 eq) was dissolved in dichloromethane and cooled to 0° C. Then added trifluoroacetic acid (3.2 ml). The above mixture was stirred at room temperature for 12 h. The solution was concentrated and the pH was brought to 8 and extracted with dichloromethane. The organic layer was concentrated yielding the desired product and was taken to the next step without further purification. Yield: 0.23 g (88%). 1HNMR (400 MHz, DMSO-d6): δ 1.21-1.24 (t, 3H), 3.33 (s, 3H), 4.1-4.23 (q, 2H), 5.39 (s, 2H), 7.27 (t, J=5 Hz, 2H), 7.38 (d, J=2 Hz, 1H), 7.43 (m, 2H), 7.53 (s, 1H), 7.61 (d, J=2 Hz, 2H), 7.78 (t, J=6 Hz, 2H), 8.73 (s, 1H), 9.58 (s, 1H). LCMS: (ES+) m/z=484.0 (M+H).

reactant | Ethyl 5-(benzyloxy)-6-(N-(tert-butoxycarbonyl)methylsulfonamido)-2-(4-fluorophenyl)pyrazolo[1,5-a]pyridine-3-carboxylate | 0.54 mmol, 0.32 g, 1 eq | C(C1=CC=CC=C1)OC1=CC=2N(C=C1N(S(=O)(=O)C)C(=O)OC(C)(C)C)N=C(C2C(=O)OCC)C2=CC=C(C=C2)F | C29H30FN3O7S
reactant | trifluoroacetic acid | 3.2 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | Ethyl 5-(benzyloxy)-2-(4-fluorophenyl)-6-(methylsulfonamido)pyrazolo[1,5-a]pyridine-3-carboxylate | C(C1=CC=CC=C1)OC1=CC=2N(C=C1NS(=O)(=O)C)N=C(C2C(=O)OCC)C2=CC=C(C=C2)F | C24H22FN3O5S
